US08980877B2
A solution of (±)-(E)-3-{1′-(2-phenyl-ethyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid methyl ester (300 mg, 0.73 mmol) in water (2.5 ml) and dioxane (5 ml) was treated with 1 M NaOH (0.96 ml) as described in Example 30, Step A to give (±)-(E)-3-{1′-(2-phenyl-ethyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid as a white said [LC-MS: (ES+) MH+: 393]. The acrylic acid was suspended in DCM (5 ml), treated with TEA (0.15 ml, 1.1 mmol) and then with EDC (208 mg, 1.09 mmol), HOBt (147 mg, 1.09 mmol) and NH2OTHP (102 mg, 0.871 mmol) following the procedure described in Example 30, Step B, giving (±)-(E)-3-{1-(2-phenyl-ethyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (165 mg) as a light yellow solid.

reactant | (±)-(E)-3-{1′-(2-phenyl-ethyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid methyl ester | 0.73 mmol, 300 mg | COC(\C=C\C=1C=CC2=C(C(NC3(CN(CCC3)CCC3=CC=CC=C3)O2)=O)C1)=O | C24H26N2O4
reactant | NaOH | 1 M, 0.96 ml | [OH-].[Na+]
solvent | water | 2.5 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (±)-(E)-3-{1′-(2-phenyl-ethyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid | C1(=CC=CC=C1)CCN1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)O | C23H24N2O4
